US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione (0.37 g, 1.00 mmol) and 6-isocyanato-2,3-dihydro-benzo[1,4]dioxine (0.18 g, 1.00 mmol) in acetonitrile (10 mL), was added triethylamine (0.28 mL, 2.00 mmol) at room temperature under nitrogen. After 2 h, dil. aq. HCl (25 mL) was added. The solids were collected by filtration and washed with water (3×30 mL). The product was slurried in EtOAc for 24 h, then filtered and dried in vacuo to give 1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.41 g, 91% yield): HPLC: Waters Nova-Pak C18 column, 3.9×150 mm, 4 μm; 10/90 to 90/10 CH3CN/0.1% aq H3PO4, Gradient over 15 min, 1.0 mL/min, 7.26 min (99.20%); mp: 230-232° C.; 1H NMR (DMSO-d6) δ 1.86-2.10 (m, 1H, CHH), 2.27-2.47 (m, 1H, CHH), 2.59 (d, J=17.6 Hz, 1H, CHH), 2.79-3.04 (m, 1H, CHH), 4.17 (q, J=4.8 Hz, 4H, CH2, CH2), 4.30 (d, J=17.4 Hz, 1H, CHH), 4.36-4.53 (m, 3H, CHH, CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, CH), 6.62 (t, J=5.9 Hz, 1H, NH), 6.66-6.83 (m, 2H, Ar), 7.05 (d, J=2.1 Hz, 1H, Ar), 7.43 (d, J=7.7 Hz, 1H, Ar), 7.50 (s, 1H, Ar), 7.69 (d, J=7.7 Hz, 1H, Ar), 8.41 (s, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 31.18, 42.76, 47.10, 51.56, 63.81, 64.19, 107.05, 111.15, 116.66, 121.85, 122.91, 126.86, 130.26, 134.08, 137.90, 142.36, 142.99, 144.94, 155.28, 167.95, 170.99, 172.85; LCMS: MH=451; Anal Calcd for C23H22N4O6: C, 61.33; H, 4.92; N, 12.44. Found: C, 61.14; H, 4.82; N, 12.40.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 1.00 mmol, 0.37 g | NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C14H15N3O3
reactant | 6-isocyanato-2,3-dihydro-benzo[1,4]dioxine | 1.00 mmol, 0.18 g | N(=C=O)C1=CC2=C(OCCO2)C=C1 | C9H7NO3
reactant | triethylamine | 2.00 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 25 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.41 g, 91% yield | O1CCOC2=C1C=CC(=C2)NC(=O)NCC=2C=C1CN(C(C1=CC2)=O)C2C(NC(CC2)=O)=O | C23H22N4O6
